US09212182B2
Intermediate CP: perfluorophenyl 1-(4-bromo-5-fluoro-2-hydroxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate
To a solution of perfluorophenyl 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (5.0 g, 8.41 mmol) in DCM (56.1 ml) was added boron tribromide (0.811 ml, 8.41 mmol) at room temperature. The resulting mixture was stirred for 48 hr. The crude mixture was transferred to a sep. funnel containing saturated aqueous bicarb and the aqueous layer was washed 3× with DCM. The organic layers were combined, dried with MgSO4, filtered and concentrated to a white solid. The product was concentrated to a solid, redissolved in toluene (100 mls) and heated to 100° C. for 1 hour to racemize the product. The solution was then cooled to room temperature and concentrated to a solid (4.4 g, 89% crude yield). m/z (ESI) 582.0 (M+1)+.

reactant | perfluorophenyl 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 8.41 mmol, 5.0 g | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C22H10BrF6NO5S
reactant | boron tribromide | 8.41 mmol, 0.811 ml | B(Br)(Br)Br | BBr3
solvent | DCM | 56.1 ml | C(Cl)Cl | CH2Cl2
product | perfluorophenyl 1-(4-bromo-5-fluoro-2-hydroxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)O | C21H8BrF6NO5S
